US06717016B2
(b) Synthesis of 2-(2-fluorophenyl)ethyl Diisopropylcarbamate
Under a nitrogen atmosphere, a mixture of 8.0 g (57.1 mmol) of 2-(2-fluorophenyl)ethanol, 9.34 g (57.1 mmol) of diisopropylcarbamoyl chloride and 6.93 ml (85.7 mmol) of pyridine was heated to 90° C. and stirred overnight. After cooling to room temperature, the mixture was treated with 1 N—HCl, extracted 3 times with ethyl acetate, washed with water, saturated NaHCO3, water and brine and then dried over sodium sulfate. After the solvent was distilled off, purification of the residue by silica gel chromatography gave 14.0 g of the title compound. (Yield: 98%).

reactant | 2-(2-fluorophenyl)ethanol | 57.1 mmol, 8.0 g | FC1=C(C=CC=C1)CCO | C8H9FO
reactant | diisopropylcarbamoyl chloride | 57.1 mmol, 9.34 g | C(C)(C)N(C(=O)Cl)C(C)C | C7H14ClNO
reactant | pyridine | 85.7 mmol, 6.93 ml | N1=CC=CC=C1 | C5H5N
reactant | HCl | Cl | ClH
product | 2-(2-fluorophenyl)ethyl Diisopropylcarbamate | 14.0 g, Yield: 98% | C(C)(C)N(C(OCCC1=C(C=CC=C1)F)=O)C(C)C | C15H22FNO2
